US05401734
To a solution of benzhydryl 7β-formamido-3-chloromethyl-3-cephem-4-carboxylate (27.34 g) in a mixture of dichloromethane (137 ml) and anisole (27 ml) was added dropwise trifluoroacetic acid (54 ml) and the mixture was stirred at 5° C. for 1.2 hours. The mixture was added dropwise to a cooled mixture of diisopropyl ether (2 l) and hexane (2 l) and the resulting precipitates were collected by filtration, washed with a mixture of diisopropyl ether and hexane to give 7β-formamido-3-chloromethyl-3-cephem-4-carboxylic acid (14.03 g).

reactant | benzhydryl 7β-formamido-3-chloromethyl-3-cephem-4-carboxylate | 27.34 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H19ClN2O4S
reactant | trifluoroacetic acid | 54 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 2 l | C(C)(C)OC(C)C | C6H14O
reactant | hexane | 2 l | CCCCCC | C6H14
solvent | dichloromethane | 137 ml | ClCCl | CH2Cl2
solvent | anisole | 27 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-formamido-3-chloromethyl-3-cephem-4-carboxylic acid | 14.03 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)O)C1=O | C9H9ClN2O4S
